US07456164B2
[4-(4-{3-[4-(2-Methoxy-ethyl)-piperidin-1-yl]-propoxy}-phenyl)-tetrahydro-pyran-4-ylmethyl]-dimethyl-amine
4-(4-Dimethylaminomethyl-tetrahydro-pyran-4-yl)-phenol (500 mg, 2.13 mmol), 1-(3-chloro-propyl)-4-(2-methoxy-ethyl)-piperidine (466 mg, 2,13 mmol), DMF (10 ml) and K2CO3 (1.18 g, 8.52 mmol) were reacted together according to general procedure B. Purification by chromatography on silica, eluant DCM:MeOH:NH3 (96:4:1) provided the title compound (409 mg, 46%) as a yellow oil. 1H NMR (400 MHz, CDCl3) δ7.20 (d, 2H), 6.86 (d, 2H), 3.99 (t, 2H), 3.75 (dt, 2H), 3.55 (td, 2H), 3.41 (t, 2H), 3.33 (s, 3H), 2.97-2.86 (m, 2H), 2.49 (t, 2H), 2.40 (s, 2H), 2.15-1.78 (m, 8H), 1.97 (s, 6H), 1.74-1.17 (m, 7H).

reactant | 4-(4-Dimethylaminomethyl-tetrahydro-pyran-4-yl)-phenol | 2.13 mmol, 500 mg | CN(C)CC1(CCOCC1)C1=CC=C(C=C1)O | C14H21NO2
reactant | 1-(3-chloro-propyl)-4-(2-methoxy-ethyl)-piperidine | 2,13 mmol, 466 mg | ClCCCN1CCC(CC1)CCOC | C11H22ClNO
reactant | K2CO3 | 8.52 mmol, 1.18 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | [4-(4-{3-[4-(2-Methoxy-ethyl)-piperidin-1-yl]-propoxy}-phenyl)-tetrahydro-pyran-4-ylmethyl]-dimethyl-amine | 409 mg, 46% | COCCC1CCN(CC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN(C)C | C25H42N2O3
